US06124313
a) 8-[2-(4-Chlorobutyrylamino)-6-methylbenzylamino]-2,3-dimethylimidazo[1,2-a]pyridine
0.88 ml (7.85 mmol) of 4-chlorobutyryl chloride is added dropwise at 0-5° C. with stirring to a solution of 2.2 g (7.85 mmol) of 8-(2-amino-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine and 0.63 ml (7.85 mmol) of pyridine in 30 ml of dichloromethane and the mixture is stirred for a further 2 h at 0-20° C. It is treated with water and potassium hydrogen carbonate to pH 7, the mixture is extracted with shaking, and the organic layer is dried with magnesium sulfate and concentrated in vacuo. The residue is recrystallized from toluene and petroleum ether (50/70° C.). 2.6 g (86%) of the title compound are obtained. M.p. 138-140° C.

reactant | 4-chlorobutyryl chloride | 7.85 mmol, 0.88 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 8-(2-amino-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | 7.85 mmol, 2.2 g | NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C17H20N4
reactant | pyridine | 7.85 mmol, 0.63 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 8-[2-(4-Chlorobutyrylamino)-6-methylbenzylamino]-2,3-dimethylimidazo[1,2-a]pyridine | 2.6 g, 86% | ClCCCC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C21H25ClN4O
